US09422281B2
A mixture of (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.040 g, 0.135 mmol), 2-chlorobenzo[d]oxazole (0.031 mL, 0.270 mmol), tris(dibenzylideneacetone)dipalladium (0.012 g, 0.013 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.016 g, 0.027 mmol), and cesium carbonate (0.088 g, 0.270 mmol) in t-butanol (2.0 mL) was heated in the microwave at 80° C. for 1.5 h. Additional portions of Xantphos (0.016 g, 0.027 mmol), tris(dibenzylideneacetone)dipalladium (0.012 g, 0.013 mmol), and 2-chlorobenzo[d]oxazole (0.031 ml, 0.270 mmol) were added, and the mixture stirred at 100° C. for 2.5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (S)-1-(4-(benzo[d]oxazol-2-yl)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.049 g, 88%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.89-1.03 (m, 2 H), 1.03-1.11 (m, 5 H), 2.18 (s, 3 H), 3.76 (tt, J=7.44, 3.85 Hz, 1 H), 4.01 (br d, J=10.26 Hz, 1 H), 4.07-4.19 (m, 1 H), 5.08 (br s, 1 H), 7.13-7.37 (m, 3 H), 7.53 (dd, J=18.03, 7.48 Hz, 3 H), 7.85 (s, 1 H), 8.24 (s, 1 H), 8.38 (d, J=2.05 Hz, 1H). MS (ESI, pos. ion) m/z 414 [M+1]+.

reactant | (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.135 mmol, 0.040 g | C1(CC1)N1N=CC(=C1)C=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C17H20N4O
reactant | 2-chlorobenzo[d]oxazole | 0.270 mmol, 0.031 mL | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.027 mmol, 0.016 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.270 mmol, 0.088 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.027 mmol, 0.016 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-chlorobenzo[d]oxazole | 0.270 mmol, 0.031 ml | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | t-butanol | 2.0 mL | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.013 mmol, 0.012 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.013 mmol, 0.012 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-1-(4-(benzo[d]oxazol-2-yl)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.049 g, 88% | O1C(=NC2=C1C=CC=C2)N2C[C@@H](N(C1=CC=C(C=C21)C=2C=NN(C2)C2CC2)C(C)=O)C | C24H23N5O2
